US04248865
To a solution of 1.439 g of (S)-(-)-3-hydroxy-2-pyrrolidinone [P. W. K. Woo, Tetrahedron Letters, 2617 (1971); mp. 103.5°-104.5° C., [α]D26 =-118.8°±2.3° (c=0.688, CHCl3)] in 14 ml of pyridine is added 2.8 ml of acetic anhydride, and the mixture is allowed to stand at room temperature for 4 hours and concentrated under reduced pressure at a temperature below 40° C. The residue is crystallized from ether and recrystallized from methylene chloride-n-hexane to give 1.735 g of (S)-(-)-3-acetoxy-2-pyrrolidinone in 86.3% yield.

reactant | (S)-(-)-3-hydroxy-2-pyrrolidinone | 1.439 g | O[C@@H]1C(NCC1)=O | C4H7NO2
reactant | acetic anhydride | 2.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
product | (S)-(-)-3-acetoxy-2-pyrrolidinone | 1.735 g, 86.3% yield | C(C)(=O)O[C@@H]1C(NCC1)=O | C6H9NO3
